US05750549
2-Methoxy-5-(thiazol-4-yl)benzaldehyde
(3-Formyl-4-methoxyphenyl)boronic acid (309 mg, 1.71 mmol), 4-bromothiazole (250 mg, 1.52 mmol, prepared as described by J. Trybulski and H. J. Brabander, U.S. Pat. No. 4,990,520, 1991), and tetrakis(triphenylphosphine)palladium(0) (88 mg, 0.076 mmol) were added to a mixture of water (3.5 mL), ethylene glycol dimethyl ether (3.5 mL), and sodium carbonate (805 mg, 7.6 mmol). The mixture was heated in an oil bath at 80° C. for 3 h, allowed to cool to 25° C., and partioned between ethyl acetate (40 mL) and water (20 mL). The aqueous layer was extracted with 2×40 mL of dichioromethane and the combined organic layers dried (sodium sulfate), decanted, and evaporated. The residue was purified by flash column chromatography on silica gel, eluting with 10% ethyl acetate in hexane to give 182 mg (55% yield) of the title compound as a white solid. NMR (400 MHz, CDCl3): δ 10.51 (s, 1H), 8.88 (d, 1H, J=2 Hz), 8.32 (d, 1H, J=2 Hz), 8.24 (dd, 1H, J=9,2 Hz), 7.54 (d, 1H, J=2 Hz), 7.09 (d, 1H, J=9 Hz), 3.99 (s, 3H). Mass spectrum (NH3 /CI): 220 (M+1).

reactant | (3-Formyl-4-methoxyphenyl)boronic acid | 1.71 mmol, 309 mg | C(=O)C=1C=C(C=CC1OC)B(O)O | C8H9BO4
reactant | 4-bromothiazole | BrC=1N=CSC1 | C3H2BrNS
reactant | sodium carbonate | 7.6 mmol, 805 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.076 mmol, 88 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 20 mL | O | H2O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 3.5 mL | COCCOC | C4H10O2
solvent | water | 3.5 mL | O | H2O
product | 2-Methoxy-5-(thiazol-4-yl)benzaldehyde | 182 mg, 55% yield | COC1=C(C=O)C=C(C=C1)C=1N=CSC1 | C11H9NO2S
